US08487109B2
1-Hept-1-ynyl-4-trifluoromethoxy-benzene
This product was prepared from toluene-4-sulfonic acid 4-trifluoromethoxy-phenyl ester and 1-heptyne following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane; yield (100 mg, 78%); 1H NMR δ (CDCl3): 7.41 (d, J=8.55 Hz, 2H), 7.21 (d, J=8.56 Hz, 2H), 2.43 (t, J=7.21 Hz, 2H), 1.62 (p, J=7.16 Hz, 2H), 1.48-1.3 (m, 4H), 0.93 (t, J=7.22 Hz, 3H); LCMS m/z: 256.

reactant | toluene-4-sulfonic acid 4-trifluoromethoxy-phenyl ester | FC(OC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C14H11F3O4S
reactant | 1-heptyne | C#CCCCCC | C7H12
solvent | heptane | CCCCCCC | C7H16
product | 1-Hept-1-ynyl-4-trifluoromethoxy-benzene | C(#CCCCCC)C1=CC=C(C=C1)OC(F)(F)F | C14H15F3O
